US08303978B2
To a solution of 2-(6-hydroxy-naphthalen-2-yl)-propionic acid methyl ester (20 grams) and pyridine (10.3 grams) in dichloromethane (200 ml) maintained at 0-5° C. under N2 atmosphere was added dropwise bromoacetyl chloride (19.6 grams). The reaction was stirred at the same temperature for one hour. The reaction mixture was washed with water (500 ml) and 5% solution of sodium carbonate followed by drying over sodium sulphate and distillation to get crude compound, which was purified by column chromatography using hexane as eluant to get pure 2-[6-(2-bromo-acetoxy)-naphthalen-2-yl]-propionic acid methyl ester (14 grams) as a dark brown syrup. The pure product was characterized using 1H NMR spectroscopy in CDCl3 δ 1.55 (d, 3H, CH3), 3.65 (s, 3H, Ester), 3.82 (q, 1H, CH), 4.08 (s, 2H, OCH2) 7.20 (dd, 1H, Ar), 7.4 (dd, 1H, Ar), 7.57 (d, 1H, Ar), 7.72 (d, 1H, Ar), 7.78 (d, 1H, Ar), 7.84 (d, 1H, Ar).

reactant | 2-(6-hydroxy-naphthalen-2-yl)-propionic acid methyl ester | 20 grams | COC(C(C)C1=CC2=CC=C(C=C2C=C1)O)=O | C14H14O3
reactant | pyridine | 10.3 grams | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl chloride | 19.6 grams | BrCC(=O)Cl | C2H2BrClO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-[6-(2-bromo-acetoxy)-naphthalen-2-yl]-propionic acid methyl ester | 14 grams | COC(C(C)C1=CC2=CC=C(C=C2C=C1)OC(CBr)=O)=O | C16H15BrO4
